US08431563B2
A 100 ml, round-bottomed flask was charged with 3-(tetrahydro-2H-pyran-4-ylmethyl)-1-(2-thiophenylsulfonyl)piperazine hydrochloride (0.250 g, 0.681 mmol), 2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (0.330 g, 1.02 mmol, Bioorg. Med. Chem. Lett. 2002, 12, 3009), sodium tert-butoxide (0.196 g, 2.04 mmol) and 10 mL of toluene. To this was added dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine (RuPhos) (0.032 g, 0.068 mmol, Strem Chemical Inc, Newburyport, Mass.), tris(dibenzylideneacetone)dipalladium (0) (0.031 g, 0.034 mmol, Strem Chemical Inc, Newburyport, Mass.). The mixture was heated at 100° C. for 12 h and then diluted with water (10 mL) and extracted with EtOAc (2×20 mL). The combined organic extracts were dried (MgSO4), concentrated, and purified by reverse-phase preparative HPLC (Phenomenex Gemini C18 column (150×30 mm, 10 μm), eluting with a 0.1% TFA in CH3CN/H2O (10% to 90% over 25 min)) to afford 1,1,1,3,3,3-hexafluoro-2-(4-(2-(tetrahydro-2H-pyran-4-ylmethyl)-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol (0.008 g) as a mixture of two enantiomers.

reactant | 3-(tetrahydro-2H-pyran-4-ylmethyl)-1-(2-thiophenylsulfonyl)piperazine hydrochloride | 0.681 mmol, 0.250 g | Cl.O1CCC(CC1)CC1CN(CCN1)S(=O)(=O)C=1SC=CC1
reactant | 2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 1.02 mmol, 0.330 g | BrC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C9H5BrF6O
reactant | sodium tert-butoxide | 2.04 mmol, 0.196 g | CC(C)([O-])C.[Na+]
reactant | dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine | 0.068 mmol, 0.032 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
solvent | water | 10 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.034 mmol, 0.031 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1,1,1,3,3,3-hexafluoro-2-(4-(2-(tetrahydro-2H-pyran-4-ylmethyl)-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol | 0.008 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)N1C(CN(CC1)S(=O)(=O)C=1SC=CC1)CC1CCOCC1)(F)F | C23H26F6N2O4S2
